US09255110B2
Sodium hydride (60% suspension in mineral oil, 350 mg, 8.78 mmol) was added, at 0° C., to a solution of 5-amino-1H-pyrazole-4-carboxylic acid ethyl ester (1.4 g, 8.9 mmol) and 5,6-dihydro-4H-pyran-3-carbaldehyde (0.5 g, 4.5 mmol) in anhydrous N,N-dimethylformamide (10 mL) and the resulting mixture was stirred, at 0° C., for 30 minutes. The reaction mixture was stirred at room temperature overnight and then heated at 50° C. for 2 hours. The resulting mixture was partitioned between water and ethyl acetate and the organic layer was separated, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography to afford 0.24 g of 6-(3-hydroxy-propyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester as a white solid. MS=250 [M+H]+.

reactant | Sodium hydride | 8.78 mmol, 350 mg | [H-].[Na+]
reactant | 5-amino-1H-pyrazole-4-carboxylic acid ethyl ester | 8.9 mmol, 1.4 g | C(C)OC(=O)C=1C=NNC1N | C6H9N3O2
reactant | 5,6-dihydro-4H-pyran-3-carbaldehyde | 4.5 mmol, 0.5 g | O1C=C(CCC1)C=O | C6H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-(3-hydroxy-propyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | 0.24 g | C(C)OC(=O)C=1C=NN2C1N=CC(=C2)CCCO | C12H15N3O3
